US07259266B2
Step 1. Preparation of ethyl 8-pent-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21a, Step 2 (0.500 g, 1.04 mmole), 1-pentyne (0.205 mL, 2.08 mmole), CuI (20 mg, 0.104 mmole), PdCl2(dppf)2.CH2Cl2 (84.5 mg, 0.104 mmole) and TEA (0.434 mL, 3.11 mmole) in anhydrous toluene (5 mL) was stirred at room temperature for 23 h. Additional 1-pentyne (2.0 ml, 20.3 mmole) was then added and the mixture was stirred an additional 24 h. Additional PdCl2(dppf)2.CH2Cl2 (120 mg, 0.147 mmole) was then added and the mixture was stirred an additional 24 h. The mixture was then poured into brine (100 mL) and extracted with EtOAc (200 mL). The EtOAc layer was separated, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica chromatography (9:1 hexanes:EtOAc) to give 0.41 g (93% yield) of the product as a yellow crystalline solid: EIHRMS m/z 422.0946 (M+, C19H16F6O4, Calc'd 422.0953).

reactant | ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H9F6IO4
reactant | 1-pentyne | 2.08 mmole, 0.205 mL | C#CCCC | C5H8
reactant | CH2Cl2 | 0.104 mmole, 84.5 mg | C(Cl)Cl | CH2Cl2
reactant | 1-pentyne | 20.3 mmole, 2.0 ml | C#CCCC | C5H8
reactant | CH2Cl2 | 0.147 mmole, 120 mg | C(Cl)Cl | CH2Cl2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | CuI | 0.104 mmole, 20 mg | [Cu]I
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 8-pent-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.41 g, 93% yield | C(#CCCC)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C19H16F6O4
